US05616610
d) (R)-3-(N-Cyclobutyl-N-isopropylamino)-8-fluoro-5-trifluoromethylsulfonyloxy-3,4-dihydro-2H-1-benzopyran
(R)-3-(N-Cyclobutyl-N-isopropylamino)-8-fluoro-5-hydroxy-3,4-dihydro-2H-1-benzopyran (1.36 g, 4.87 mmol) and collidine (0.90 mL, 6.8 mmol) were dissolved in anhydrous CH2Cl2 (50 mL) and cooled to -40° C. Trifluoromethanesulfonic anhydride (1.05 mL, 6.1 mmol) was added dropwise and allowed to warm to ambient temperature, and after coming to 0° C. the reaction was done. The reaction was diluted with CH2Cl2 and washed with a saturated aqueous NaHCO3 solution, the aqueous was re-extracted, twice, with CH2Cl2 the combined CH2Cl2 portions were dried (MgSO4), filtered, and evaporated in vacuo to give a crude residue. Chromatography on silica (eluent: 70% hexane/CH2Cl2) gave 1.67 g (83% yield) of the title compound as a slightly yellow oil. [α]21D =-86.8° (C=0.1; CHCl3). GC-MS (70 eV) M=411 (0.3%).

reactant | (R)-3-(N-Cyclobutyl-N-isopropylamino)-8-fluoro-5-hydroxy-3,4-dihydro-2H-1-benzopyran | 4.87 mmol, 1.36 g | C1(CCC1)N(C(C)C)[C@H]1COC2=C(C1)C(=CC=C2F)O | C16H22FNO2
reactant | collidine | 6.8 mmol, 0.90 mL | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | Trifluoromethanesulfonic anhydride | 6.1 mmol, 1.05 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (R)-3-(N-Cyclobutyl-N-isopropylamino)-8-fluoro-5-trifluoromethylsulfonyloxy-3,4-dihydro-2H-1-benzopyran | 1.67 g, 83% yield | C1(CCC1)N(C(C)C)[C@H]1COC2=C(C1)C(=CC=C2F)OS(=O)(=O)C(F)(F)F | C17H21F4NO4S
